US07906528B2
To a solution of 1-[5-(2,6-dimethyl-phenyl)-1-(6-isopropoxy-pyridazin-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-one (70 mg, 0.15 mmol) in a (4:1) EtOH—H2O mixture (5 mL) −30° C., NaBH4 (50 mg, 1.3 mmol) is added, and the mixture is allowed to gradually warm up to room temperature at which the stirring is continued for 2 h. The mixture is concentrated under reduced pressure. The residue is diluted with a saturated aqueous solution of Rochelle's salt (10 mL), and the product is extracted with DCM. The combined organic solutions are washed with brine, dried (Na2SO4) and concentrated under reduced pressure. Chromatography of the residue on silica gel (hexane-EtOAc, 1:1) gives 1-[5-(2,6-dimethyl-phenyl)-1-(6-isopropoxy-pyridazin-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol as colorless oil. 1H NMR (CDCl3) 9.52 (s, 1H), 7.83 (s, 1H), 7.71 (s, 1H), 7.69 (s, 1H), 7.59 (s, 1H), 7.22-7.10 (m, 3H), 5.62 (m, 1H), 5.21 (m, 1H), 2.08 (s, 6H), 1.47 (d, J=7 Hz, 6H), 1.08 (s, 9H); LCMS m/z 459.14 (2.48 min).

reactant | 1-[5-(2,6-dimethyl-phenyl)-1-(6-isopropoxy-pyridazin-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-one | 0.15 mmol, 70 mg | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)N(C=C2C(C(CC)CC)=O)C=2N=NC(=CC2)OC(C)C | C28H32N4O2
reactant | NaBH4 | 1.3 mmol, 50 mg | [BH4-].[Na+]
solvent | EtOH—H2O | 5 mL | C(C)O.O
product | 1-[5-(2,6-dimethyl-phenyl)-1-(6-isopropoxy-pyridazin-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-2-ethyl-butan-1-ol | CC1=C(C(=CC=C1)C)C=1C=C2C(=CN1)N(C=C2C(C(CC)CC)O)C=2N=NC(=CC2)OC(C)C | C28H34N4O2
